US04026936
N-(Methoxycarbonyl)-S-methylisothiourea
5 ml. of water and 1.9 ml. of dimethyl sulfate were added to 1.52 g. of thiourea (20 mmol). The mixture was stirred for about 3 mins. (until the initial heat evolution had subsided). The clear solution was then heated on a steam bath for 1 hour with stirring. The solution was cooled to about 20° C. and surrounded by a water bath (18° -22° C.). Freshly distilled methyl chloroformate (3.1 ml., 40 mmol) was added all at once followed by dropwise addition of 25 ml. of 10% aqueous sodium hydroxide over a period of 30 mins. The resulting product was isolated by extraction with methylene chloride and concentrated in vacuo to give an oily yellow solid which crystallized from ether as white prisms, mp. 97° -100° C.

reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | thiourea | 20 mmol | NC(=S)N | CH4N2S
reactant | methyl chloroformate | 40 mmol, 3.1 ml | ClC(=O)OC | C2H3ClO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(Methoxycarbonyl)-S-methylisothiourea | COC(=O)NC(SC)=N | C4H8N2O2S
